// 65nm port — bare nch/pch, VDD 1.2V. // Ported from circuit-bench common-source-amplifier-ptm180-scs (cascode CS + bias).
// pmos_180->pch nmos_180->nch, L 720n->300n/360n->100n, VDD 1.0V, IBIAS 20uA.
simulator lang=spectre
global 0
parameters vin=0.5
v_vdd (VDD 0) vsource dc=1.2 type=dc
i_bias (IBIAS 0) isource dc=20u type=dc
v_in  (IN 0) vsource dc=vin type=dc
c_load (OUT 0) capacitor c=200f
mpb1   (pbias1 pbias1 VDD VDD) pch l=300n w=32u nf=15
mpb2   (IBIAS  IBIAS  pbias1 VDD) pch l=300n w=32u nf=15
mpnref (nbias2 IBIAS  VDD    VDD) pch l=300n w=32u nf=15
mnb2   (nbias2 nbias2 nbias1 0) nch l=100n w=12u nf=6
mnb1   (nbias1 nbias1 0      0) nch l=100n w=12u nf=6
mpload (pint   pbias1 VDD VDD) pch l=300n w=20u nf=9
mpcas  (OUT    IBIAS  pint VDD) pch l=300n w=20u nf=9
mncasc (OUT    nbias2 nint 0) nch l=100n w=2u
mnin   (nint   IN     0    0) nch l=100n w=2u
simulatorOptions options temp=27 tnom=27 gmin=1e-12
dc dc param=vin start=0.3 stop=0.7 step=0.005 annotate=status
save OUT
saveOptions options save=selected
